US07345070B2
2-(Biphenyl-3-yloxy)-3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-propionic acid
5N NaOH (0.5 mL) was added to a solution of 2-(Biphenyl-3-yloxy)-3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-propionic acid ethyl ester and 3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-2-phenoxy-propionic acid ethyl ester in ethanol (4 mL). The resultant mixture was refluxed under an atmosphere of nitrogen for 2 h, then cooled to ambient temperature. The reaction mixture was concentrated in vacuo, diluted with 1N HCl, and extracted with CH2Cl2. The organic layer was dried through a Varian ChemElut cartridge, concentrated in vacuo, and purified by LCMS. 1H NMR (400 MHz, CDCl3): δ 7.51 (d, 2H, J=7.82 Hz), 7.41 (t, 2H, J=7.04 Hz), 7.35-7.24 (m, 2H), 7.18 (d, 3H, J=8.21 Hz), 7.12-7.11 (m, 1H), 6.86 (d, 1H, J=8.60 Hz), 7.82 (d, 2H, J=8.60 Hz), 4.13 (t, 2H, J=5.47 Hz), 3.26 (d, 1H, J=14.08 Hz), 3.14 (d, 1H, J=14.08 Hz), 2.95 (t, 3H, J=5.47 Hz), 2.29 (s, 3H), 2.00 (d, 2H, J=12.51 Hz), 1.79 (d, 2H, J=13.30 Hz), 1.70-1.21 (m, 8H). MS [EI+] 540 (M+H)+.

reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
reactant | 2-(Biphenyl-3-yloxy)-3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1CCCCC1)(C)OC=1C=C(C=CC1)C1=CC=CC=C1)=O | C36H41NO5
reactant | 3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-2-phenoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1CCCCC1)(OC1=CC=CC=C1)C)=O | C30H37NO5
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-(Biphenyl-3-yloxy)-3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-propionic acid | C1(=CC(=CC=C1)OC(C(=O)O)(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1CCCCC1)C)C1=CC=CC=C1 | C34H37NO5
